US04661510
2-Amino-3-methyl-3,4-pentadienoic acid
To an LDA solution (75.6 mmole prepared from diisopropylamine and 1.55M n-butyl lithium at -78° C.) in 100 ml of dry THF was added dropwise 36 mmole of N-BOC-glycine butynal ester (prepared from N-BOC-glycine and 2-butyn-1-ol according to the method of R. Olsen, et al, JOC, 47, 1962, 1982), in 20 ml of THF. After 1 hour, 9.6 ml of chlorotrimethylsilane was added and the reaction mixture was slowly brought to room temperature and then heated to reflux for 1 hour. On cooling to room temperature, 20 ml of methanol was added and after another hour the reaction mixture was concentrated. The resulting residue was taken in ethyl acetate and extracted repeatedly with 5% NaHCO3. The aqueous portion was acidified in a two phase system containing CH2Cl2 with 20% HCl to pH 3.0. The CH2Cl2 portion was separated and the aqueous phase repeatedly extracted with CH2Cl2. The combined CH2Cl2 extracts were washed once with water, brine and dried over anhydrous MgSO4. On concentration 1.3 gm of a residue showing an allene band at 1960 cm-1 was obtained. This was taken in 50 ml of a saturated HCl ethyl acetate solution at room temperature upon which a yellow precipitate formed. After 1 hour, the reaction mixture was concentrated and the resulting residue taken in water and washed with CH2Cl2. The aqueous portion was then applied on an ion-exchange column (H+) eluting with 20% pyridine-water. The eluant was concentrated, partially purified by reverse phase chromatography and upon crystallization from acetone-water, the desired product was obtained: mp. 195°-200° C. (dec), IR (KBr): 1960 cm-1 (C=C=C), 'H NMR (δD2O): 1.82 (t, 3H, J=3.2 Hz, CH3), 4.2 (t, 1H, J=1.7 Hz, CHN), 5.0 ppm (m, 2H, H2C=C).

reactant | LDA | 75.6 mmole, 1.55M | [Li+].CC(C)[N-]C(C)C
reactant | N-BOC-glycine | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 2-butyn-1-ol | C(C#CC)O | C4H6O
reactant | chlorotrimethylsilane | 9.6 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | HCl ethyl acetate | 50 ml | C(C)(=O)OCC.Cl
solvent | methanol | 20 ml | CO | CH4O
product | 2-Amino-3-methyl-3,4-pentadienoic acid | NC(C(=O)O)C(=C=C)C | C6H9NO2
